US04131611
Using the method of M. Takeda, et al., Chem. Pharm. Bull., 24, 2312 (1976), 1-(p-tolyl)-3-azabicyclo[3.1.0]hexan-2-one is reacted with methyllithium followed by sodium borohydride. Excess reagents are decomposed with methanol, followed by 1N hydrochloric acid, and then 1N sodium hydroxide and then evaporation of the solution gives a residue which is dissolved in ether. This solution is dried over sodium sulfate and filtered, and to the filtrate is added dry hydrogen chloride. Filtration of this suspension gives 2-methyl-1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride.

reactant | 1-(p-tolyl)-3-azabicyclo[3.1.0]hexan-2-one | C1(=CC=C(C=C1)C12C(NCC2C1)=O)C | C12H13NO
reactant | methyllithium | C[Li]
reactant | sodium borohydride | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-methyl-1-(p-tolyl)-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.CC1C2(CC2CN1)C1=CC=C(C=C1)C | InChI=1S/C13H17N.ClH/c1-9-3-5-11(6-4-9)13-7-12(13)8-14-10(13)2;/h3-6,10,12,14H,7-8H2,1-2H3;1H
